US07208518B2
To dry THF (10 mL) there was added 3.0 M solution of methylmagnesium bromide in diethylether (Aldrich) (10.9 mL; 32.8 mmole) and then a previously prepared solution of 2-hydroxy-3,5-diisopropyl benzonitrile (2.78 g, 13.7 mmole) and dry THF (70 mL) was added. After 7 hours under the reflux the reaction mixture was mixed with water (100 mL), acidified with concentrated hydrochloric acid (50 mL) and refluxed for one more hour. After cooling and extraction with ethyl acetate an oily product was obtained, which was purified on a silica gel column, whereat there were obtained 380 mg (12.5%) of 2′-hydroxy-3′5′-diisopropylacetophenone:

reactant | methylmagnesium bromide | C[Mg]Br
reactant | diethylether | 32.8 mmole, 10.9 mL | C(C)OCC | C4H10O
reactant | 2-hydroxy-3,5-diisopropyl benzonitrile | 13.7 mmole, 2.78 g | OC1=C(C#N)C=C(C=C1C(C)C)C(C)C | C13H17NO
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2′-hydroxy-3′5′-diisopropylacetophenone | 380 mg, 12.5% | OC1=C(C=C(C=C1C(C)C)C(C)C)C(C)=O | C14H20O2
